US09278944B2
3-Iodo-6-methyl-1H-pyrazolo[3,4-b]pyridine and methyl (3-bromopropyl)carbamate were treated in the similar manner to Reference Example 102(1) to give methyl [3-(3-iodo-6-methyl-1H-pyrazolo[3,4-b]pyridin-1-yl)propyl]carbamate [REx(104-3)] as a colorless powder.

reactant | 3-Iodo-6-methyl-1H-pyrazolo[3,4-b]pyridine | IC1=NNC2=NC(=CC=C21)C | C7H6IN3
reactant | methyl (3-bromopropyl)carbamate | BrCCCNC(OC)=O | C5H10BrNO2
product | methyl [3-(3-iodo-6-methyl-1H-pyrazolo[3,4-b]pyridin-1-yl)propyl]carbamate | IC1=NN(C2=NC(=CC=C21)C)CCCNC(OC)=O | C12H15IN4O2
